US07598232B2
(E)-2,4,6-trimethoxystyryl-3-(trifluoromethanesulfonamido)-4-methoxybenzylsulfone
A solution of trifluoromethanesulfonyl chloride (10 mmol) and (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) was reacted according to General Method A. The product obtained was purified by column chromatography to give the desired product in 59.9% yield. (m.p. 144-46° C.)

reactant | trifluoromethanesulfonyl chloride | 10 mmol | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
product | (E)-2,4,6-trimethoxystyryl-3-(trifluoromethanesulfonamido)-4-methoxybenzylsulfone | 59.9% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NS(=O)(=O)C(F)(F)F)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NS(=O)(=O)C(F)(F)F)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C40H42F6N2O14S3
